US05019578
2-Isobutyramido-5-(1-hydroxyl-2-bromethyl)pyrimidine
To a solution of 764 mg of 5-ethenyl-2-(isobutyramido)pyrimidine in a mixture of 3 ml of water and 7 ml of tetrahydrofuran, 710 mg of N bromosuccinimide was added. The reaction mixture was stirred at room temperature for 18 hours and then partially concentrated under reduced pressure. To the aqueous residue 25 ml of methylene chloride was added and the layers separated. The aqueous layer was further extracted with methylene chloride (20 ml). The combined organic extracts were washed with 20 ml of water and then dried over anhydrous magnesium sulfate. Concentration afforded 977 mg of a glassy product. This material was chromatographed on silica gel (95:5 methylene chloride:methanol) to give 491 mg of pure bromohydrin.

reactant | 5-ethenyl-2-(isobutyramido)pyrimidine | 764 mg | C(=C)C=1C=NC(=NC1)NC(C(C)C)=O | C10H13N3O
reactant | bromosuccinimide | BrC1C(=O)NC(C1)=O | C4H4BrNO2
reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | water | 3 ml | O | H2O
product | 2-Isobutyramido-5-(1-hydroxyl-2-bromethyl)pyrimidine | 977 mg | C(C(C)C)(=O)NC1=NC=C(C=N1)C(CBr)O | C10H14BrN3O2
